US05414088
2-(3,3-Dimethyl-2,3-dihydro-2-oxo-(1H)-6-indolyl)benzimidazole
One heated 3,3-dimethyl-2,3-dihydro-2-oxo-(1H)-6-indolecarbonitrile (2.6 g, preparation described in DE-A-3,818,830) and ortho-phenylenediamine (2.6 g) in polyphosphoric acid for 6 h at 160° C. One allowed to cool to 80°-90° C., added ice thereto, diluted with water to a volume of 1.2 l and neutralised with conc. ammonia. One extracted with a mixture of dichloromethane:methanol=10:1, removed the solvent in a vacuum and purified the residue column chromatographically (silica gel 60, dichloromethane:methanol. ammonia=20:1). One obtained 0.4 g of grey crystals which one recrystallised from ethanol/water. One obtained 195 mg of the title compound with the m.p. 326°-330° C.

reactant | 3,3-dimethyl-2,3-dihydro-2-oxo-(1H)-6-indolecarbonitrile | 2.6 g | CC1(C(NC2=CC(=CC=C12)C#N)=O)C | C11H10N2O
reactant | ortho-phenylenediamine | 2.6 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | water | O | H2O
solvent | ammonia | N | H3N
product | 2-(3,3-Dimethyl-2,3-dihydro-2-oxo-(1H)-6-indolyl)benzimidazole | 0.4 g | CC1(C(NC2=CC(=CC=C12)C=1NC2=C(N1)C=CC=C2)=O)C | C17H15N3O
